US20010055553A1
Preparation of 3-Methoxy-5-nonylsalicylaldehyde (5b)
A pressure reactor was charged with 500 ml of toluene and heated to 218° C. A slurry of a mixture of 2-methoxy-4-nonylphenol (250.4 g, 1.0 mol), paraformaldehyde (94.5 g, 3.15 mol), titanium cresylate (2 ml) and 50 ml of toluene was added over 5 mins. The container of slurry was washed two times with 2×50 ml of toluene. The reaction mixture was heated (the reactor was heated with a 250° C. hot oil circulating through internal coil) and stirred for 25 mins. and discharged from the reactor. The dark brown mixture was washed with 5% H2SO4 and water. The organic solution was separated and dried over MgSO4. Removal of the solvent left dark color oil as crude product. The purification was achieved through vacuums distillation and chromatography.

reactant | 2-methoxy-4-nonylphenol | 1.0 mol, 250.4 g | COC1=C(C=CC(=C1)CCCCCCCCC)O | C16H26O2
reactant | paraformaldehyde | 3.15 mol, 94.5 g | C=O | CH2O
catalyst | titanium | 2 ml | [Ti] | Ti
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methoxy-5-nonylsalicylaldehyde | COC1=C(C(C=O)=CC(=C1)CCCCCCCCC)O | C17H26O3
